US06664395B2
To a stirred, cold (0° C.) solution of 1,2,3-benzotriazole-5-carboxylic acid methyl ester (2.51 g) in dimethylformamide was added 60% sodium hydride (370 mg) portion wise. After 20 minutes, methyl iodide (0.87 mL) was added. The reaction was quenched by the addition of water after 30 minutes. The mixture was extracted with ethyl acetate; the extracts were washed with water, and brine, and dried (sodium sulfate). Filtration and concentration of the filtrate gave a residue from which 716 mg of 1-methyl-1H-benzotriazole-5-carboxylic acid methyl ester crystallized (hot ethyl acetate). The mother liquor was purified by flash chromatography (eluting with 3:2 hexanes/ethyl acetate) to give 890 mg of 2-methyl-2H-benzotriazole-5-carboxylic acid methyl ester and 490 mg of 3-methyl-3H-benzotriazole-5-carboxylic acid methyl ester. Structural assignments were made on the basis of proton NMR and nOe experiments.

reactant | 1,2,3-benzotriazole-5-carboxylic acid methyl ester | 2.51 g | COC(=O)C=1CC=2C(N=NN2)=CC1 | C8H7N3O2
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | methyl iodide | 0.87 mL | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-methyl-1H-benzotriazole-5-carboxylic acid methyl ester | 716 mg | COC(=O)C1=CC2=C(N(N=N2)C)C=C1 | C9H9N3O2
